US04636514
(4-Chlorophenoxy)methyl thiophene
To a solution of 51.75 g (0.29 m) of 2-bromomethylthiophene and 38.6 g (0.3 m) of 4-chlorophenol in 400 ml of acetonitrile was added, all at once, 38.6 g of powdered potassium carbonate. The resulting mixture was stirred and heated at reflux for one (1) hour. The solvent was removed by evaporation under reduced pressure and 400 ml of water was added to the residue. The resulting aqueous mixture was extracted three times with 200 ml portions of ether. The organic extracts were combined and then washed sequentially with 50 ml of a 10 percent sodium hydroxide solution, 300 ml of water and 300 ml of a saturated sodium chloride solution. The extracts were dried over magnesium sulfate and the solvent removed by evaporation under reduced pressure. The residue was an orange oil which slowly solidified upon standing. Distillation of the residue gave a main fraction boiling at 96°-100° C. at 0.01 millimeter of mercury. The crude product slowly crystallized and was purified by recrystallization from hexane. The (4-chlorophenoxy)methylthiopene product, a white solid, was recovered in a yield of 41 g (63 percent of theoretical) and melted at 45°-47° C.

reactant | 2-bromomethylthiophene | 51.75 g | BrCC=1SC=CC1 | C5H5BrS
reactant | 4-chlorophenol | 38.6 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium carbonate | 38.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | (4-Chlorophenoxy)methyl thiophene | ClC1=CC=C(OCC=2SC=CC2)C=C1 | C11H9ClOS
